US06787536B2
4-(R)-Benzyl-3-(3-methyl-2-(R)-{4-[5-(4-trifluoromethylphenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}butyryl)oxazolidin-2-one
Prepared according to the method for the preparation of 4-(R)-benzyl-3-(2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-3-methyl-butyryl)oxazolidin-2-one, from 2-piperazin-1-yl-5-(4-trifluoromethylphenyl)-pyrimidine, dihydrochloride (0.250 g) and 4-(R)-benzyl-3-(2-(R)-chlorosulfonylmethyl-3-methylbutyryl)-oxazolidin-2-one (0.360 g), to yield the title compound as an off-white solid (0.480 g, 86%).

reactant | 4-(R)-benzyl-3-(2-(R)-{4-[5-(4-fluorophenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}-3-methyl-butyryl)oxazolidin-2-one | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC=C(C=C1)F)=O | C30H34FN5O5S
reactant | 2-piperazin-1-yl-5-(4-trifluoromethylphenyl)-pyrimidine, dihydrochloride | 0.250 g | Cl.Cl.N1(CCNCC1)C1=NC=C(C=N1)C1=CC=C(C=C1)C(F)(F)F
reactant | 4-(R)-benzyl-3-(2-(R)-chlorosulfonylmethyl-3-methylbutyryl)-oxazolidin-2-one | 0.360 g | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CS(=O)(=O)Cl)=O | C16H20ClNO5S
product | 4-(R)-Benzyl-3-(3-methyl-2-(R)-{4-[5-(4-trifluoromethylphenyl)pyrimidin-2-yl]piperazine-1-sulfonylmethyl}butyryl)oxazolidin-2-one | 0.480 g, 86% | C(C1=CC=CC=C1)[C@H]1N(C(OC1)=O)C([C@@H](C(C)C)CS(=O)(=O)N1CCN(CC1)C1=NC=C(C=N1)C1=CC=C(C=C1)C(F)(F)F)=O | C31H34F3N5O5S
